US09428469B2
N3-(3,5-dichlorophenyl)-N5-((1-methyl-1H-pyrazol-4-yl)methyl)-1H-1,2,4-triazole-3,5-diamine (Compound 11)
A solution of N3-(3,5-dichlorophenyl)-1H-1,2,4-triazole-3,5-diamine Intermediate 2 (70 mg, 287 μmol) and 1-methyl-1H-pyrazole-4-carbaldehyde (108.9 mg, 982 μmol) in MeOH (3 ml) was stirred at 45° C. for 4 days to give a suspension, cooled to −20° C. and was filtered to collect the solid. The solid was re-suspended in MeOH (5 ml), NaBH4 (65.1 mg, 1.72 mmol) was added and the reaction was stirred for 1 hour. The solvent was removed, and the reaction mixture was redissolved in EtOAc (5 ml) and washed with water (2×4 ml), dried over MgSO4 and concentrated in vacuo. Crystallization from DCM/hexanes afforded a white solid as desired product (66.6 mg, 69% yield). MS +m/z: 338 (M+H)+

reactant | N3-(3,5-dichlorophenyl)-1H-1,2,4-triazole-3,5-diamine | ClC=1C=C(C=C(C1)Cl)NC1=NNC(=N1)N | C8H7Cl2N5
reactant | 1-methyl-1H-pyrazole-4-carbaldehyde | 982 μmol, 108.9 mg | CN1N=CC(=C1)C=O | C5H6N2O
reactant | NaBH4 | 1.72 mmol, 65.1 mg | [BH4-].[Na+]
solvent | MeOH | 3 ml | CO | CH4O
product | N3-(3,5-dichlorophenyl)-N5-((1-methyl-1H-pyrazol-4-yl)methyl)-1H-1,2,4-triazole-3,5-diamine | 66.6 mg, 69% yield | ClC=1C=C(C=C(C1)Cl)NC1=NNC(=N1)NCC=1C=NN(C1)C | C13H13Cl2N7
